US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-phenylpyrrolidine-2,4-dione (E1)
The compound was synthesized starting from ethyl 1-(1H-benzo[d]imidazol-5-yl)-2,4-dioxo-5-phenylpyrrolidine-3-carboxylate (which may be prepared in accordance with the procedure described for Intermediate 5; 0.1 g, 0.196 mmol) and 5 N aqueous hydrochloric acid (6 ml) according to the method described in Method 1, step 3.

reactant | ethyl 1-(1H-benzo[d]imidazol-5-yl)-2,4-dioxo-5-phenylpyrrolidine-3-carboxylate | N1C=NC2=C1C=CC(=C2)N2C(C(C(C2C2=CC=CC=C2)=O)C(=O)OCC)=O | C20H17N3O4
reactant | hydrochloric acid | 5 N, 6 ml | Cl | ClH
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-phenylpyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=CC=C2)=O)=O | C17H13N3O2
